US09101616B2
Step-1: (R,E)-3-(1H-indol-3-yl)-N-(1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)acrylamide
To a suspension of (R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethanamine 2HCl salt (1.1 g, 3.8 mmol) and (E)-3-(1-(tert-butoxycarbonyl)-1H-indol-3-yDacrylic acid (1.0 g, 3.5 mmol) in dichloromethane (8 mL) were added triethylamine (1.8 g, 17 mmol), EDC (800 mg, 4.2 mmol) and HOBT (270 mg, 1.7 mmol) respectively. The reaction mixture was stirred at room temperature for 6 hours. Sat. sodium bicarbonate aqueous solution was added to the mixture. The organic layer was extracted with ethyl acetate, washed with brine, and dried over sodium sulfate. After the filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give the residue, which was applied to a silica gel chromatography column and eluted with a hexane/ethylacetate=2/1 (v/v) to furnish 900 mg (53% yield) of the title as a yellow solid;

reactant | (R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethanamine 2HCl salt | 3.8 mmol, 1.1 g | Cl.Cl.FC(COC=1C=CC(=NC1)[C@@H](C)N)(F)F
reactant | triethylamine | 17 mmol, 1.8 g | C(C)N(CC)CC | C6H15N
reactant | EDC | 4.2 mmol, 800 mg
reactant | HOBT | 1.7 mmol, 270 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | (R,E)-3-(1H-indol-3-yl)-N-(1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)acrylamide | 53% yield | N1C=C(C2=CC=CC=C12)/C=C/C(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C20H18F3N3O2
